US07902252B2
6.4.a) Synthesis of (Z)-trimethyl(8-phenyl-3-(tetrahydro-2H-pyran-2-yloxy)oct-5-en-1-ynyl)silane
Reaction of trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)silane (4.6 g, 21.6 mmol 4.6 g, 21.6 mmol) and (z)-5-bromo-pent-3-enyl)-benzene, (4.1 g, 18 mmol)) according to General Procedure 11.A provided the title compound. The material was used in the next step without purification.

reactant | trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)silane | 21.6 mmol, 4.6 g | C[Si](C#CCOC1OCCCC1)(C)C | C11H20O2Si
reactant | benzene | 18 mmol, 4.1 g | C1=CC=CC=C1 | C6H6
product | (Z)-trimethyl(8-phenyl-3-(tetrahydro-2H-pyran-2-yloxy)oct-5-en-1-ynyl)silane | C[Si](C#CC(C\C=C/CCC1=CC=CC=C1)OC1OCCCC1)(C)C | C22H32O2Si
